US04431589
10-Amino-6,7-dichloro-2-methyl-2,4-dihydro-1,2,3-triazolo-[4,5-b][1,5]benzodiazepine hydrochloride.
To a slurry of 2-methyl-4[4,5-dichloro-2-nitroanilino]-1,2,3-triazole-5-carbonitrile (1.1 g) in ethanol (10 ml) was added anhydrous stannous chloride (2.0 g) in concentrated hydrochloric acid (10 ml) and the solution heated at reflux for one hour, cooled and the resulting solid filtered and dried at 70° C. under reduced pressure to give an orange crystalline solid, recrystallised from ethanol, melting point >255° C.

reactant | 2-methyl-4[4,5-dichloro-2-nitroanilino]-1,2,3-triazole-5-carbonitrile | 1.1 g | CN1N=C(C(=N1)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])C#N | C10H6Cl2N6O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 10-Amino-6,7-dichloro-2-methyl-2,4-dihydro-1,2,3-triazolo-[4,5-b][1,5]benzodiazepine hydrochloride | Cl.NC=1C=2C(NC3=C(N1)C=C(C(=C3)Cl)Cl)=NN(N2)C | InChI=1S/C10H8Cl2N6.ClH/c1-18-16-8-9(13)14-6-2-4(11)5(12)3-7(6)15-10(8)17-18;/h2-3H,1H3,(H2,13,14)(H,15,17);1H
